US04346087
Into an apparatus similar to that in Example 1, were charged 339.5 g (1 mole) of N-(2-hydroxy)hexadecyldiethylenetriamine and 144.2 g (1 mole) of ethyl 3-formyl-2-methylpropionate. At 140° to 160° C., 18 g of water and 46 g of ethanol were distilled off to obtain 4-(2-hydroxyhexadecyl)aminoethyl-6-methyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one.

reactant | N-(2-hydroxy)hexadecyldiethylenetriamine | 1 mole, 339.5 g | OC(CNCCNCCN)CCCCCCCCCCCCCC | C20H45N3O
reactant | ethyl 3-formyl-2-methylpropionate | 1 mole, 144.2 g | C(=O)CC(C(=O)OCC)C | C7H12O3
product | 4-(2-hydroxyhexadecyl)aminoethyl-6-methyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one | OC(CNCCN1CCN=CCC(C1=O)C)CCCCCCCCCCCCCC | C25H49N3O2
